US03946022
A mixture of 22.4 g (0.08 mole) of α,α-diphenyl-4-piperidinemethanol, 23.8 g (0.09 mole) of 4'-tert-butyl-6-chlorocaprophenone, 20 g (0.2 mole) of potassium bicarbonate, 0.1 g of potassium iodide in 300 ml of toluene and 45 ml of water is stirred on a steam bath for about 96 hours after which the organic layer is separated and combined with toluene extracts of the aqueous layer. The combined organic material is washed with water and saturated sodium chloride solution, dried over magnesium sulfate, and filtered. The filtrate is diluted with ether and made acidic with ethereal HCl. The resulting precipitate is recrystallized from methanol-butanone to give 4'-tert-butyl-6-[4-(α-hydroxy-α-phenylbenzyl)piperidino]caprophenone hydrochloride.

reactant | α,α-diphenyl-4-piperidinemethanol | 0.08 mole, 22.4 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 4'-tert-butyl-6-chlorocaprophenone | 0.09 mole, 23.8 g | C(C)(C)(C)C1=CC=C(C=C1)C(CCCCCCl)=O | C16H23ClO
reactant | potassium bicarbonate | 0.2 mole, 20 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 45 ml | O | H2O
product | 4'-tert-butyl-6-[4-(α-hydroxy-α-phenylbenzyl)piperidino]caprophenone hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C34H43NO2.ClH/c1-33(2,3)28-20-18-27(19-21-28)32(36)17-11-6-12-24-35-25-22-31(23-26-35)34(37,29-13-7-4-8-14-29)30-15-9-5-10-16-30;/h4-5,7-10,13-16,18-21,31,37H,6,11-12,17,22-26H2,1-3H3;1H
